Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.7219088307
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],6.81574133
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:10]([H:11])([H:12])[H:13],7.174543125389999
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],7.603196391060001
[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[H:9].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-4.93916170809
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.61128628102
[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.0305456828400006
[H:1][C:2][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.83325208253
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.30533906624
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.80350413766
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.93666961809
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[O:11][H:12],3.98392677564
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-2.11339228391
[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.20515375087
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.9975253766
[H:1].[O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.67484590504
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9],3.7793687284300006
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3][O:4][C@@:5]1([H:6])[C:7][C:8]1[H:9],1.37112059977
[C:2]([H:3])[O:4][H:5].[O:1]>>[O:1]=[C:2]([H:3])[O:4][H:5],-7.69308249
[C:4]([H:5])#[C:6][H:7].[O:1][O:2][C:3][C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10],-1.5295981544
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.13528923699
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2][H:3],1.44068942371
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[H:8],-5.42766897632
[C:1]#[C:2][O:3][C:4][C:7]([H:8])[H:9].[O:5][H:6]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-6.15158229686
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],1.94629342776
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],2.59796951771
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.1109229871609999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.61645957756
[H:6].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-1.66149223535
